US07728018B2
8-Oxa-2,3-diaza-spiro[4.5]dec-2-ene
C-(4-Aminomethyl-tetrahydro-pyran-4-yl)-methylamine (1.0 g) was taken up in a mixture of H2O (10 mL) and MeOH (2.5 mL), and cooled in an ice bath. Simultaneously, H2O2 (4.8 mL of a 30% solution, 6 equiv.) and NaClO (12.4 mL of a 10% solution, 2.4 equiv.) were added dropwise, the ice bath was removed, and the mixture was stirred overnight at room temperature. Extraction with DCM, drying over Na2SO4 and evaporation under reduced pressure yielded 380 mg of a clear, light-yellow liquid containing 85% of the anticipated product and 15% of the diamine starting material. This material was used in subsequent steps without further purification. 1H NMR (400 MHz, CDCl3) δ 1.49 (t, 4H), 3.65 (t, 4H), 4.28 (s, 4H).

reactant | C-(4-Aminomethyl-tetrahydro-pyran-4-yl)-methylamine | 1.0 g | NCC1(CCOCC1)CN | C7H16N2O
reactant | H2O2 | OO | H2O2
reactant | NaClO | [O-]Cl.[Na+]
solvent | H2O | 10 mL | O | H2O
solvent | MeOH | 2.5 mL | CO | CH4O
product | 8-Oxa-2,3-diaza-spiro[4.5]dec-2-ene | 85% | C1N=NCC12CCOCC2 | C7H12N2O
